US08791129B2
[2-Amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone (“5”)
10 g of (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone (“4”) are dissolved in 500 ml of dimethyl sulfoxide under argon atmosphere. 6.1 g of bis(pinacolato)diboron, 8.017 g of potassium acetate and 981 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride are added to this solution, and the mixture is heated at 80° C. for 60 min. After cooling, 250 ml of diethyl ether are added to the mixture, which is then extracted four times against 100 ml of water each time. The combined organic phases are dried over sodium sulfate, filtered, and the filtrate is evaporated until a red oil is present. This oil is triturated with acetonitrile, with pale-beige crystals being formed. The precipitate is filtered and dried at 50° C. in a drying cabinet for 12 h. The resultant product is reacted further without further purification.

reactant | (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone | 10 g | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)I | C17H13IN4O
reactant | bis(pinacolato)diboron | 6.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.017 g | C(C)(=O)[O-].[K+]
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 981 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
